US07982036B2
To a stirred solution of N2-(6-(4-methoxylphenoxy)pyrimidin-4-yl)pyridine-2,6-diamine (150 mg, 0.474 mmol) in THF/NMP (1 mL/0.5 mL) was added acryloyl chloride (64 mg, 0.712 mmol) at −10° C. under N2 atmosphere. After stirring at this temperature for 30 min, the reaction was stopped and the reaction mixture was slowly added to NaHCO3 solution (10 mL). A white solid was precipitated which was isolated by filtration and was dissolved in a mixture of ethyl acetate (5 mL) and Et3N (0.5 mL). The solution was washed with water (2 mL) and brine (2 mL). Drying over Na2SO4 followed by filtration and concentration under reduced pressure afforded a yellow solid. It was further purified by column chromatography (SiO2, 60-120, chloroform/methanol, 9/1) to give N-(6-(6-(4-methoxyphenoxy)pyrimidin-4-ylamino)pyridine-2-yl)acrylamide (I-91) as an off white solid. 1H NMR (DMSO-d6) δ ppm: 3.76 (s, 3H), 5.79 (dd, J=1.84 & 10.16 Hz, 1H), 6.30 (dd, J=1.84 & 17 Hz, 1H), 6.65 (dd, J=10.12 & 16.92 Hz, 1H), 6.96-6.99 (m, 2H), 7.02 (d, J=7.88 Hz, 1H), 7.09-7.13 (m, 2H), 7.69 (t, J=7.96 Hz, 1H), 7.76 (d, J=7.44 Hz, 1H), 7.86 (s, 1H), 8.30 (d, J=0.88 Hz, 1H), 10.17 (s, 1H), 10.17 (s, 1H); LCMS m/e 364 (M+1).

reactant | N2-(6-(4-methoxylphenoxy)pyrimidin-4-yl)pyridine-2,6-diamine | 0.474 mmol, 150 mg | O(C)C1=CC=C(OC2=CC(=NC=N2)NC2=NC(=CC=C2)N)C=C1 | C16H15N5O2
reactant | acryloyl chloride | 0.712 mmol, 64 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | THF NMP | 1 mL | C1CCOC1.CN1CCCC1=O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
product | N-(6-(6-(4-methoxyphenoxy)pyrimidin-4-ylamino)pyridine-2-yl)acrylamide | COC1=CC=C(OC2=CC(=NC=N2)NC2=CC=CC(=N2)NC(C=C)=O)C=C1 | C19H17N5O3
